US07309703B2
B. 1-[3-(4-Bromo-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone
A flask equipped with a Dean-Stark trap was charged with N-acetyl-4-piperidone (100.1 g, 709 mmol), piperidine (68 mL, 779 mmol), pTsOH (3.7 g) and benzene (500 mL). The mixture was heated to 125° C. After 17 h the mixture was allowed to cool and divided into two portions. A solution of p-bromobenzoyl chloride (70.0 g, 319 mmol) in CH2Cl2 (400 mL) was added dropwise to a 0° C. solution of the enamine (ca. 355 mmol) in CH2Cl2 (320 mL) over 15 h. The mixture was then allowed to warm to 23° C. and stirred for an additional 5 h. The solution was treated with 1 N HCl (500 mL) and stirred vigorously for 1.5 h. The layers were separated and the aqueous layer was extracted with CH2Cl2 (2×300 mL). The combined extracts were washed with sat. aqueous NaHCO3 (300 mL), H2O (300 mL), brine (300 mL), dried over Na2SO4 and concentrated. The residue was dissolved in MeOH (300 mL) and treated with NH2NH2 (50.0 mL, 1.59 mol). The mixture was stirred for 17 h before the precipitate formed was collected by filtration and air dried to give 52 g (50%) of the title compound which was suitable for use without further purification. TLC (silica, 5% MeOH/CH2Cl2): Rf=0.3. MS (electrospray): m/z calculated for C14H1579BrN3O [M+H]+, 320.04, found 320. 1H NMR (CD3OD/CDCl3, 400 MHz, a mixture of amide rotamers): 7.53 and 7.35 (A and B of AA′BB′, J=8.5 Hz, 2H), 7.51 and 7.39 (A and B of AA′BB′, J=8.6 Hz, 2H), 4.72 (s, 2H), 4.58 (s, 2H), 3.85 (t, J=5.9 Hz, 2H), 3.71 (t, J=5.8 Hz, 2H), 2.81, (t, J=5.8 Hz, 2H), 2.74, (t, J=5.8Hz, 2H), 2.16 (s, 3H), 2.11 (s, 3H).

reactant | N-acetyl-4-piperidone | 709 mmol, 100.1 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | piperidine | 779 mmol, 68 mL | N1CCCCC1 | C5H11N
reactant | pTsOH | 3.7 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | p-bromobenzoyl chloride | 319 mmol, 70.0 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | HCl | 1 N, 500 mL | Cl | ClH
reactant | NH2NH2 | 1.59 mol, 50.0 mL | NN | H4N2
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 320 mL | C(Cl)Cl | CH2Cl2
solvent | benzene | 500 mL | C1=CC=CC=C1 | C6H6
product | 1-[3-(4-Bromo-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 52 g, 50% | BrC1=CC=C(C=C1)C1=NNC2=C1CN(CC2)C(C)=O | C14H14BrN3O
